US04060615
A mixture of anhydrous ammonia and 4-chloro-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline in 100 ml. of tetrahydrofuran is heated at 100° C. for a period of 16 to 24 hours and the product isolated according to the procedure of Example 1(a) to provide 4-amino-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline.

reactant | ammonia | N | H3N
reactant | 4-chloro-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline | ClC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CCCC1 | C20H25ClN4O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-amino-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CCCC1 | C20H27N5O3
